US08030337B2
N-{3-[2-(Acetylamino)ethyl]-4-hydroxy-2,3-dihydro-1H-inden-5-yl}-4-(benzyloxy)pentanamide
4-(Benzyloxy)pentanoic acid (230 mg, 1.10 mmol) was dissolved in tetrahydrofuran (10 mL), oxalyl chloride (90 μL, 1.05 mmol) and dimethylformamide (10 μL) were added under ice-cooling, and the mixture was stirred for 30 min. The solvent was evaporated under reduced pressure, and the residue was diluted with dichloromethane (1 mL). This was added to a solution of N-[2-(6-amino-7-hydroxy-2,3-dihydro-1H-inden-1-yl)ethyl]acetamide hydrochloride (244 mg, 0.903 mmol) in pyridine (10 mL) under ice-cooling, and the mixture was stirred at room temperature for 15 min. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane=80/20→100/0) to give the title compound (220 mg, yield 57%).

reactant | 4-(Benzyloxy)pentanoic acid | 1.10 mmol, 230 mg | C(C1=CC=CC=C1)OC(CCC(=O)O)C | C12H16O3
reactant | oxalyl chloride | 1.05 mmol, 90 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylformamide | 10 μL | CN(C=O)C | C3H7NO
reactant | N-[2-(6-amino-7-hydroxy-2,3-dihydro-1H-inden-1-yl)ethyl]acetamide hydrochloride | 0.903 mmol, 244 mg | Cl.NC1=CC=C2CCC(C2=C1O)CCNC(C)=O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | N-{3-[2-(Acetylamino)ethyl]-4-hydroxy-2,3-dihydro-1H-inden-5-yl}-4-(benzyloxy)pentanamide | 220 mg, yield 57% | C(C)(=O)NCCC1CCC2=CC=C(C(=C12)O)NC(CCC(C)OCC1=CC=CC=C1)=O | C25H32N2O4
